US06420365B1
To a suspension of bromoethyl 2-chloro-3-bromoethoxy-4-methoxybenzoate (2.0 g, 4.8 mmol) in ethanol (6 ml) is added 2.5 N aqueous sodium hydroxide (4.8 ml, 12 mmol). The resulting mixture is heated at 50° C. until dissolved plus an additional 10 minutes. The solution is cooled, acidified with 3 N HCl, transferred to a separatory funnel and extracted with ethyl acetate (4×25 ml). The combined organic layers are washed with brine (25 ml), dried over magnesium sulfate and evaporated to obtain 1.4 g (93%) of 3-bromoethoxy-2-chloro-4-methoxybenzoic acid.

reactant | bromoethyl 2-chloro-3-bromoethoxy-4-methoxybenzoate | 4.8 mmol, 2.0 g | ClC1=C(C(=O)OCCBr)C=CC(=C1OCCBr)OC | C12H13Br2ClO4
reactant | sodium hydroxide | 12 mmol, 2.5 N, 4.8 ml | [OH-].[Na+]
reactant | HCl | 3 N | Cl | ClH
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 3-bromoethoxy-2-chloro-4-methoxybenzoic acid | 1.4 g, 93% | BrCCOC=1C(=C(C(=O)O)C=CC1OC)Cl | C10H10BrClO4
